US07855218B2
Description D77: methyl (5R)-5-(4-bromophenyl)-L-prolinate (D77)
A solution of methyl (2S)-5-(4-bromophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylate (D76, 799 mg, 2.83 mmol) and Pt/C (50 mg) was stirred under hydrogen (1 atm) overnight. Then TFA (0.25 ml) was added and hydrogenation was continued for another 2 h. Then more Pt/C (100 mg) was added and the mixture was stirred for additional 9 h under hydrogen (1 atm). After that additional catalyst (100 mg) and TFA (0.25 ml) was added and stirring was continued for another 5 h under hydrogen atmosphere. Then additional catalyst was added (100 mg). After additional 4 h the reaction was finished and the solution was filtered over celite, evaporated and purified using a SCX cartridge to afford the title compound (641 mg, 79%). UPLC: Rt 0.47 min; MS: (ES/+) m/z: 284, 286 [MH+], C12H14BrNO2 requires 284.

reactant | methyl (2S)-5-(4-bromophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylate | 2.83 mmol, 799 mg | BrC1=CC=C(C=C1)C=1CC[C@H](N1)C(=O)OC | C12H12BrNO2
reactant | TFA | 0.25 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 0.25 ml | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pt/C | 50 mg | [Pt] | Pt
catalyst | Pt/C | 100 mg | [Pt] | Pt
product | methyl (5R)-5-(4-bromophenyl)-L-prolinate | 641 mg, 79% | BrC1=CC=C(C=C1)[C@H]1CC[C@H](N1)C(=O)OC | C12H14BrNO2
